US04414225
6-(2,6-Dichlorobenzyl)-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride
This compound was prepared analogous to Example 17 from 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine and 2,6-dichlorobenzyl bromide.

reactant | 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | S1C=CC2=C1CCNCC2 | C8H11NS
reactant | 2,6-dichlorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | 6-(2,6-Dichlorobenzyl)-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.ClC1=C(CN2CCC3=C(CC2)C=CS3)C(=CC=C1)Cl | InChI=1S/C15H15Cl2NS.ClH/c16-13-2-1-3-14(17)12(13)10-18-7-4-11-6-9-19-15(11)5-8-18;/h1-3,6,9H,4-5,7-8,10H2;1H
